US07179811B2
K2CO3 (0.129 mol) was suspended in a solution of ethyl 4-(1H-benzimidazol-2-yl-amino)-1-piperidinecarboxylate (0.0347 mol) and 2-bromo-1-(4-chlorophenyl)ethanone (0.0647 mol) in acetonitrile (150 ml). The mixture was stirred and refluxed for 8 hours, then cooled, poured out into H2O and extracted with CH2Cl2. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 97.5/2.5/0.1). The pure fractions were collected and the solvent was evaporated. Part of this fraction (3 g) was taken up in 2-propanone and diethyl ether. The precipitate was filtered off and dried, yielding 2 g of ethyl 4-[[1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate (interm. 1).

reactant | K2CO3 | 0.129 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 4-(1H-benzimidazol-2-yl-amino)-1-piperidinecarboxylate | 0.0347 mol | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | 2-bromo-1-(4-chlorophenyl)ethanone | 0.0647 mol | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | H2O | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | ethyl 4-[[1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate | 2 g | ClC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC)=O | C23H25ClN4O3
